US07579488B2
D. 5-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-3-methyl-benzofuran-2-carboxylic acid ethyl ester.
5-(1-Ethyl-propenyl)-3-methyl-benzofuran-2-carboxylic acid ethyl ester (3.20 g, 11.7 mmol) and o-cresol (1.91 g, 17.6 mmol) and BF3-Et2O (1.66 g, 11.7 mmol) are reacted analogous to Example 1D to give the title compound (4.04 g, 91%).

reactant | 5-(1-Ethyl-propenyl)-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 11.7 mmol, 3.20 g | C(C)OC(=O)C=1OC2=C(C1C)C=C(C=C2)C(=CC)CC | C17H20O3
reactant | o-cresol | 17.6 mmol, 1.91 g | C1(=CC=CC=C1O)C | C7H8O
reactant | BF3 Et2O | 11.7 mmol, 1.66 g | B(F)(F)F.CCOCC
product | 5-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 4.04 g, 91% | C(C)OC(=O)C=1OC2=C(C1C)C=C(C=C2)C(CC)(C2=CC(=C(C=C2)O)C)CC | C24H28O4
